US04391812
2-[(3-Hydroxymethyl-1-piperidyl)methyl)propenenitrile
Cyanoacetic acid (25.5 g., 0.3 mole) was dissolved in 75 ml. of dioxane, cooled to 0°-10° C., and with the cooling bath in place, 3-piperidinemethanol (34.5 g., 0.3 mole) dripped in. The temperature then rose upon the addition of 37% aqueous formaldehyde (50 g., 0.6 mole) to 30° C. with the cold bath removed. After mixing overnight at room temperature, the mixture was concentrated in a rotary evaporator, saturated with sodium chloride and extracted with ether. The organic phase was washed with sodium carbonate solution, dried and concentrated. The residue yielded 43.8 g.; 38 g. was fractionally distilled and the product isolated, 22.4 g., b.p. 137° C./0.4 mm.

reactant | Cyanoacetic acid | 0.3 mole, 25.5 g | C(#N)CC(=O)O | C3H3NO2
reactant | 3-piperidinemethanol | 0.3 mole, 34.5 g | N1CC(CCC1)CO | C6H13NO
reactant | formaldehyde | 0.6 mole, 50 g | C=O | CH2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-[(3-Hydroxymethyl-1-piperidyl)methyl)propenenitrile | OCC1CN(CCC1)CC(C#N)=C | C10H16N2O
